US07670512B2
Synthesis of 2,5-bis[(2-cyanoethyl)sulfanyl]-N-(4-nitrobenzoyl)-1,4-phenylenediamine
2,5-Bis[(cyanoethyl)thio]-1,4-phenylenediamine (13.9 g, 50 mmol) was dissolved in 90 mL of NMP in a 250 mL 3-necked round-bottom flask under nitrogen purge. The resultant clear red solution was cooled to 0-5° C. in an ice bath, followed by addition of freshly distilled triethylamine (TEA) by syringe. After stirring for 10 minutes, a mixture of 4-nitrobenzoyl chloride (10.2 g, 55 mmol) and 90 mL of NMP was added into the stirred fed solution drop by drop over a period of 0.5 h. The resultant solution was stirred at 0-5° C. for 2 h and at room temperature for 1 h, followed by addition of 800 mL of water with stirring. The resultant yellow precipitate was collected by filtration, followed by washing with 800 mL of deionized water twice and 300 mL of methanol once. The obtained product was extracted with methanol using a Soxhlet extractor for 24 h. A yellow solution was collected and evaporated, followed by drying at 60° C. under vacuum overnight, giving the title compound as a red powder (13.1 g, yield 61%).

reactant | 2,5-Bis[(cyanoethyl)thio]-1,4-phenylenediamine | 50 mmol, 13.9 g | C(#N)CCSC1=C(C=C(C(=C1)N)SCCC#N)N | C12H14N4S2
reactant | 4-nitrobenzoyl chloride | 55 mmol, 10.2 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | 800 mL | O | H2O
solvent | NMP | 90 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 90 mL | CN1CCCC1=O | C5H9NO
product | 2,5-bis[(2-cyanoethyl)sulfanyl]-N-(4-nitrobenzoyl)-1,4-phenylenediamine | 13.1 g, yield 61% | C(#N)CCSC1=C(C=C(C(=C1)N)SCCC#N)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H17N5O3S2
